US07238808B2
Prepared from 3-iodo-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine (87.5 g, 191 mmol) and trimethylsilylacetylene (54 mL, 390 mmol) as described in Example C.1, method 1, step 3a, to give the 7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-3-trimethylsilanylethynyl-pyrazolo[1,5-a]pyrimidine (82.71 g, 100%) as a yellow-orange solid.

reactant | 3-iodo-7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-pyrazolo[1,5-a]pyrimidine | 191 mmol, 87.5 g | IC=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC=C(C=C2)C(F)(F)F | C14H6F6IN3
reactant | trimethylsilylacetylene | 390 mmol, 54 mL | C[Si](C)(C)C#C | C5H10Si
product | 7-trifluoromethyl-5-(4-trifluoromethyl-phenyl)-3-trimethylsilanylethynyl-pyrazolo[1,5-a]pyrimidine | 82.71 g, 100% | FC(C1=CC(=NC=2N1N=CC2C#C[Si](C)(C)C)C2=CC=C(C=C2)C(F)(F)F)(F)F | C19H15F6N3Si
